US08314126B2
4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]-1-(2-METHOXYETHYL)-PIPERIDINE
Preparation according to Example 1: 4-[2-fluoro-3-(methylsulfonyl)-phenyl]-piperidine (0.53 g, 1.64 mmol), acetonitrile (20 ml), potassium carbonate (0.45 g, 3.2 mmol) 1-bromo-2-methoxyethane (0.167 ml, 1.72 mmol). MS m/z (relative intensity, 70 eV) 315 (M+, 1), 271 (14), 270 (bp), 147 (10) 133 (9).

reactant | 4-[2-fluoro-3-(methylsulfonyl)-phenyl]-piperidine | 1.64 mmol, 0.53 g | FC1=C(C=CC=C1S(=O)(=O)C)C1CCNCC1 | C12H16FNO2S
reactant | potassium carbonate | 3.2 mmol, 0.167 ml, 0.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]-1-(2-METHOXYETHYL)-PIPERIDINE | FC1=C(C=CC=C1S(=O)(=O)C)C1CCN(CC1)CCOC | C15H22FNO3S
